US08420851B2
To a solution of {[4-(3-sec-Butyl-4-methoxy-phenoxy)-3,5-dichloro-phenyl]-ethoxycarbonylmethyl-amino}-acetic acid ethyl ester (12.5 g, 0.02 mol) in CH2Cl2 (250 mL) was cooled to −60° C. under nitrogen atmosphere. To that 1M BBr3 solution (122 mL) was added dropwise. The reaction mixture was allowed to warm up to 20-25° C. over 5 h. then diluted with more CH2Cl2 (250 mL) and quenched with H2O. After stirring at 20-25° C. for 30 min, organic phase was separated, washed with water, brine, dried over sodium sulphate, filtered and concentrated to give crude product. The crude product was purified by column chromatography over flash silica gel (chloroform:methanol) gradient elution from 95:5 to 90:10 to give pure {[4-(3-sec-Butyl-4-hydroxy-phenoxy)-3,5-dichloro-phenyl]-carboxymethyl-amino}-acetic acid (6.8 g, 63% yield)

reactant | {[4-(3-sec-Butyl-4-methoxy-phenoxy)-3,5-dichloro-phenyl]-ethoxycarbonylmethyl-amino}-acetic acid ethyl ester | 0.02 mol, 12.5 g | C(C)OC(CN(CC(=O)OCC)C1=CC(=C(C(=C1)Cl)OC1=CC(=C(C=C1)OC)C(C)CC)Cl)=O | C25H31Cl2NO6
reactant | BBr3 | 1M, 122 mL | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | {[4-(3-sec-Butyl-4-hydroxy-phenoxy)-3,5-dichloro-phenyl]-carboxymethyl-amino}-acetic acid | 6.8 g, 63% yield | C(C)(CC)C=1C=C(OC2=C(C=C(C=C2Cl)N(CC(=O)O)CC(=O)O)Cl)C=CC1O | C20H21Cl2NO6
